US07238808B2
5-[8-Cyclopropyl-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridin-3-ylethynyl]-thiophene-2-sulfonic acid amide
The title compound was prepared from 8-cyclopropyl-3-ethynyl-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridine (example C.25) (450 mg, 1.3 mmol) and commercially available 5-bromothiophene-2-sulfonamide (334 mg, 1.3 mmol) according to general procedure II. Obtained as a light yellow solid (200 mg, 29%). MS (ISP) 488.2 [(M+H)+]; mp 261° C.

reactant | 8-cyclopropyl-3-ethynyl-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridine | 1.3 mmol, 450 mg | C1(CC1)C=1C=2N(C=C(C1)C1=CC=C(C=C1)C(F)(F)F)C(=CN2)C#C | C19H13F3N2
reactant | 5-bromothiophene-2-sulfonamide | 1.3 mmol, 334 mg | BrC1=CC=C(S1)S(=O)(=O)N | C4H4BrNO2S2
product | 5-[8-Cyclopropyl-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridin-3-ylethynyl]-thiophene-2-sulfonic acid amide | C1(CC1)C=1C=2N(C=C(C1)C1=CC=C(C=C1)C(F)(F)F)C(=CN2)C#CC2=CC=C(S2)S(=O)(=O)N | C23H16F3N3O2S2
